US07777042B2
(S)-1-(3-Trifluoromethyl-benzenesulfonyl)-piperidine-2-carboxylic acid [(S)-2-(3,4-dimethoxy-phenyl)-1-(tetrahydro-pyran-4-ylcarbamoyl)-ethyl]-amide
To a solution of 90 mg (0.29 mmol) of (S)-2-amino-3-(3,4-dimethoxy-phenyl)-(tetrahydropyran-4-yl)-propionamide and 98 mg (0.29 mmol) of (S)-1-(3-trifluoromethyl-benzenesulfonyl)-piperidine-2-carboxylic acid in 2 ml of dichloromethane was added 25 mg (0.29 mmol) of sodium bicarbonate followed by 40 mg (0.29 mmol) of HOAT and 56 mg (0.29 mmol) of EDCI. The mixture was stirred at room temperature for 17 hours after which it was purified by flash chromatography on silica gel, eluting with 50-100% ethyl acetate/heptane to give 0.162 g (0.25 mmol) of the title compound. 1H NMR (300 MHz, CDCl3): 1.00-1.40 (m, 7H); 1.84 (b, 2H); 2.12 (bd, 1H); 2.60 (t, 1H); 2.99 (dd, 1H); 3.18 (dd, 1H); 3.45 (t, 2H); 3.61 (bd, 1H); 3.79-4.00 (m, 9H); 4.38 (b, 1H); 4.62 (q, 1H); 5.96 (d, 1H); 6.74-6.83 (m, 4H); 7.70 (t, 1H); 7.87 (d, 1H); 8.00 (d, 1H); 8.07 (s, 1H).

reactant | (S)-2-amino-3-(3,4-dimethoxy-phenyl)-(tetrahydropyran-4-yl)-propionamide | 0.29 mmol, 90 mg | N[C@@](C(=O)N)(CC1=CC(=C(C=C1)OC)OC)C1CCOCC1 | C16H24N2O4
reactant | (S)-1-(3-trifluoromethyl-benzenesulfonyl)-piperidine-2-carboxylic acid | 0.29 mmol, 98 mg | FC(C=1C=C(C=CC1)S(=O)(=O)N1[C@@H](CCCC1)C(=O)O)(F)F | C13H14F3NO4S
reactant | sodium bicarbonate | 0.29 mmol, 25 mg | C([O-])(O)=O.[Na+]
reactant | HOAT | 0.29 mmol, 40 mg | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | EDCI | 0.29 mmol, 56 mg | CCN=C=NCCCN(C)C | C8H17N3
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | (S)-1-(3-Trifluoromethyl-benzenesulfonyl)-piperidine-2-carboxylic acid [(S)-2-(3,4-dimethoxy-phenyl)-1-(tetrahydro-pyran-4-ylcarbamoyl)-ethyl]-amide | 0.25 mmol, 0.162 g | COC=1C=C(C=CC1OC)C[C@@H](C(NC1CCOCC1)=O)NC(=O)[C@H]1N(CCCC1)S(=O)(=O)C1=CC(=CC=C1)C(F)(F)F | C29H36F3N3O7S
